US04147799
18 g. of 1-(3,4-methylenedioxyphenyl)-2-aminoethanol hydrochloride are dissolved in 300 ml. of ethanol and 50 ml. of 80% aqueous solution of acetaldehyde. To the resulting solution are added 0.5 g. of extended Raney nickel and the mixture is heated at 70° C. in an atmosphere of hydrogen in a 1 liter-autoclave. After the absorption of hydrogen is complete, the mixture is cooled. Then the catalyst is filtered off and the filtrate is concentrated to dryness. Upon recrystallization of the crude crystalline residue from isopropyl alcohol, 12.5 g. of 1-(3,4-methylenedioxyphenyl)-2-ethylaminoethanol hydrochloride are obtained as white needles.

reactant | 1-(3,4-methylenedioxyphenyl)-2-aminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CN)O
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-(3,4-methylenedioxyphenyl)-2-ethylaminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CNCC)O | InChI=1S/C11H15NO3.ClH/c1-2-12-6-9(13)8-3-4-10-11(5-8)15-7-14-10;/h3-5,9,12-13H,2,6-7H2,1H3;1H
